US08492378B2
5-[1-[4-(methylsulfinyl)phenyl]-1H-benzimidazol-6-yl]-1,3,4-oxadiazole-2-thiol
A solution of 1-[4-(methylsulfinyl)phenyl]-1H-benzimidazole-6-carbohydrazide (1.26 g, 4.00 mmol), carbon disulfide (0.601 mL, 10.0 mmol) and triethylamine (0.669 mL, 4.80 mmol) in ethanol (20 mL) was heated under reflux for 3 hr. After cooling, the reaction mixture was poured into water, and alkalified with 1 M aqueous sodium hydroxide solution. The obtained aqueous solution was filtered, and the filtrate was neutralized with 1M hydrochloric acid. The precipitate was collected by filtration, and washed with ethanol to give the title compound (0.955 g, yield 67%) as colorless crystals.

reactant | 1-[4-(methylsulfinyl)phenyl]-1H-benzimidazole-6-carbohydrazide | 4.00 mmol, 1.26 g | CS(=O)C1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C(=O)NN | C15H14N4O2S
reactant | carbon disulfide | 10.0 mmol, 0.601 mL | C(=S)=S | CS2
reactant | triethylamine | 4.80 mmol, 0.669 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-[1-[4-(methylsulfinyl)phenyl]-1H-benzimidazol-6-yl]-1,3,4-oxadiazole-2-thiol | 0.955 g, yield 67% | CS(=O)C1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C2=NN=C(O2)S | C16H12N4O2S2
